BPC-MPS - Projekt - Knihovna

.SUBCKT OUT_ADJ gnd trim vout
	R1   trim   r1       470k
	R2   r2     gnd      1k
	Xpot vout   r1   r2  POT PARAMS: VALUE=10k SET=.168
.ENDS


.SUBCKT POT 1 T 2 PARAMS: VALUE=1k SET=0.5
	RT 1 T {VALUE*(1-MIN(1-1f,SET))}
	RB T 2 {VALUE*MAX(1f,SET)}
.ENDS
